US06448269B1
To a suspension of 1.5 g 10% Pd-C in 300 ml ethanol were added under an atmosphere of argon 29.2 g (132.0 mmol) 3,4-dihydro-4,4-dimethyl-6-nitro-2-oxo-2H-1-benzopyran (prepared by nitration of 3,4-dihydro-4,4-dimethyl-2-oxo-2H-1-benzopyran according to J. Am. Chem. Soc. 1970, 92, 4377, the disclosure of which is incorporated herein by reference) and 21.4 g (339.4 mmol) ammonium formate. The temperature raised for approximately 1 hour to 50° C. accompanied by a gas evolution, and it was heated for additional 3 hours at 80° C. The catalyst was filtered through Celite, which was washed with 500 ml hot ethanol. The combined filtrates were concentrated under reduced pressure to a volume of 100 ml, and the formed precipitate was filtered with suction. A second crop of the crude 6-amino-3,4-dihydro-4,4-dimethyl-2-oxo-2H-1-benzopyran was obtained after further concentration. Both crops were combined and dissolved in 80 ml THF followed by addition of 80 ml water, 25.3 g (183 mmol) potassium carbonate, and 29.2 g (133.8 mmol) Boc2O. After 8 hours stirring at room temperature another 2.9 g Boc2O and 2.5 g potassium carbonate were added, and stirring was continued overnight. The mixture was poured into 300 ml water and extracted with ethyl acetate, and the organic layer was dried over sodium sulfate and concentrated under reduced pressure. A first crop of the title compound crystallized from the oily residue with diisopropylether. An additional amount was obtained from the concentrated mother liquid by chromatography on silica gel with toluene crystallizing from the oily pure fractions with diisopropylether.

reactant | 3,4-dihydro-4,4-dimethyl-2-oxo-2H-1-benzopyran | CC1(CC(OC2=C1C=CC=C2)=O)C | C11H12O2
reactant | ammonium formate | 339.4 mmol, 21.4 g | C(=O)[O-].[NH4+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Pd-C | 1.5 g | [Pd] | Pd
product | 6-amino-3,4-dihydro-4,4-dimethyl-2-oxo-2H-1-benzopyran | NC=1C=CC2=C(C(CC(O2)=O)(C)C)C1 | C11H13NO2
